US04786644
A solution of 2.4 g of 1,2-dihydro-4-hydroxy-1-phenyl-N-(2-pyridyl)-3-quinolinecarboxamide in 150 ml of benzene was treated with 8.4 g of activated manganese dioxide. The slurry was stirred at room temperature for 30 minutes, filtered, and evaporated. Recrystallization of the residue from dichloromethane-diethyl ether afforded 2.19 g (92%) of 1,4-dihydro-4-oxo-1-phenyl-N-(2-pyridyl)-3-quinolinecarboxamide, m.p. 238°-240° C.

reactant | 1,2-dihydro-4-hydroxy-1-phenyl-N-(2-pyridyl)-3-quinolinecarboxamide | 2.4 g | OC1=C(CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC=CC=C1 | C21H17N3O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 8.4 g | [O-2].[O-2].[Mn+4]
product | 1,4-dihydro-4-oxo-1-phenyl-N-(2-pyridyl)-3-quinolinecarboxamide | 2.19 g, 92% | O=C1C(=CN(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)NC1=NC=CC=C1 | C21H15N3O2
